US07943622B2
Step 2. Synthesis of tert-butyl tetrahydro-3-oxo-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate
1,4-Di(tert-butoxycarbonyl)piperazine-2-carboxylic acid (14.45 g, 43.7 mmol) was dissolved in THF (200 mL), and borane-THF complex (1.0 M solution in THF, 100 mL, 100 mmol) was added slowly. Upon complete addition, the reaction mixture was heated to 50° C. After 2 h, the reaction mixture was allowed to cool to rt and was slowly quenched by the dropwise addition of MeOH (50 mL). After gas evolution ceased, the reaction mixture was heated to 50° C. for 1 h. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure. The material was dissolved in THF (200 mL) and NaH (60% dispersion in mineral oil, 1.75 g, 43.7 mmol) was added portion wise. The reaction mixture was heated to 50° C. overnight. Upon cooling to rt, the reaction mixture was quenched with H2O (300 mL) and extracted with EtOAc (3×400 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by column chromatography (10 to 40% EtOAc in Hexanes gradient) to give 6.31 g (59%) of the desired product as a white solid. Rf=0.43 in 80% EtOAc in Hexanes. 1.10 g (8%) of di-tert-butyl 2-(hydroxymethyl)piperazine-1,4-dicarboxylate was also isolated. Rf=0.63 in 80% EtOAc in Hexanes.

reactant | 1,4-Di(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 43.7 mmol, 14.45 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
reactant | borane THF | 100 mmol, 1.0 M, 100 mL | B.C1CCOC1
reactant | NaH | 43.7 mmol, 1.75 g | [H-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-butyl tetrahydro-3-oxo-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate | 6.31 g, 59% | O=C1OCC2N1CCN(C2)C(=O)OC(C)(C)C | C11H18N2O4
